US04921855
To a mixture of 2(S)-morpholinocarbonyloxy-3-phenylpropionic acid (120 mg) and 2(S)-(L-histidyl)amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane (142 mg) in dry N,N-dimethylformamide (20 ml), which was cooled to 0° C., were added a solution of diphenyl phosphorylazide (108 mg) in dry N,N-dimethylformamide (5 ml) and triethylamine (40 mg). The mixture was stirred for 16 hours at ambient temperature. After evaporation of the solvent, the residue was dissolved in ethyl acetate (30 ml). The solution was washed with 1M sodium bicarbonate solution and water successively, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel thin layer chromatography (chloroform:methanol, 6:1, V/V) to give 2(S)-[Nα -(2(S)-morpholinocarbonyloxy-3-phenylpropionyl)-L-histidyl]amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane (177 mg) as an amorphous powder.

reactant | 2(S)-morpholinocarbonyloxy-3-phenylpropionic acid | 120 mg | O1CCN(CC1)C(=O)O[C@H](C(=O)O)CC1=CC=CC=C1 | C14H17NO5
reactant | 2(S)-(L-histidyl)amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane | 142 mg | N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1CCCCC1)[C@H](CCC(C)C)O | C20H36N4O2
reactant | diphenyl phosphorylazide | 108 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 40 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2(S)-[Nα -(2(S)-morpholinocarbonyloxy-3-phenylpropionyl)-L-histidyl]amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane | 177 mg | O1CCN(CC1)C(=O)O[C@H](C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1CCCCC1)[C@H](CCC(C)C)O)CC1=CC=CC=C1 | C34H51N5O6
